US09212154B2
Thiazolidine-2,4-dicarboxylic acid 2-ethyl ester (1.0 g, 4.89 mmol) was subjected to acylation with acetyl chloride (0.52 ml, 7.31 mmol) in the presence of triethylamine (1.02 ml, 7.33 mmol) to give N-acetylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester (with the ratio of two kinds of stereoisomers of about 37:63 as confirmed by NMR) as an amorphous solid (1.19 g).

reactant | Thiazolidine-2,4-dicarboxylic acid 2-ethyl ester | 4.89 mmol, 1.0 g | CCOC(=O)C1SCC(N1)C(=O)O | C7H11NO4S
reactant | acetyl chloride | 7.31 mmol, 0.52 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 7.33 mmol, 1.02 ml | C(C)N(CC)CC | C6H15N
product | N-acetylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester | CCOC(=O)C1SCC(N1C(C)=O)C(=O)O | C9H13NO5S
